US06010826
A 1-liter flask was charged with 43.9 g (0.51 mol) of 3-methyl-2-buten-1-ol, 51.6 g (0.51 mol) of triethylamine and 300 ml of dichloromethane, and the mixture was cooled down to 0° C. While stirring the mixture at 0° C., 100.9 g (0.50 mol) of bromoacetyl bromide were added dropwise over 1 hour, followed by stirring further for 3 hours at room temperature. Solids were separated by filtration from the resultant reaction mixture, and the filtrate was washed 3 times with water and distilled to obtain 66.5 g of 3-methyl-2-butenyl bromoacetate.

reactant | 3-methyl-2-buten-1-ol | 0.51 mol, 43.9 g | CC(=CCO)C | C5H10O
reactant | triethylamine | 0.51 mol, 51.6 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 0.50 mol, 100.9 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-methyl-2-butenyl bromoacetate | 66.5 g | BrCC(=O)OCC=C(C)C | C7H11BrO2
